US06903129B2
A mixture of 150 mg (0.36 mmol) (12R,23R)-14,21-dioxa-1,8-diaza-tricyclo[21.3.0.0 8,12]hexacos-17-ene-2,7,13,22-tetraone and 20 mg 10%) palladium/carbon in 5 ml ethylacetate was hydrogenated over night. Filtration and removal of the solvent yielded 120 mg (79%) (12R,23R)-14,21-dioxa-1,8-diaza-tricyclo[21.3.0.0 8,12]hexacosane-2,7,13,22-tetraone as a light yellow oil, MS m/e (%): 423 (M+H+, 100).

reactant | (12R,23R)-14,21-dioxa-1,8-diaza-tricyclo[21.3.0.0 8,12]hexacos-17-ene-2,7,13,22-tetraone | 0.36 mmol, 150 mg | N12C(CCCCC(N3CCC[C@@H]3C(OCCC=CCCOC([C@H]2CCC1)=O)=O)=O)=O | C22H32N2O6
solvent | ethylacetate | 5 ml | C(C)OC(C)=O | C4H8O2
catalyst | palladium/carbon | [Pd] | Pd
product | (12R,23R)-14,21-dioxa-1,8-diaza-tricyclo[21.3.0.0 8,12]hexacosane-2,7,13,22-tetraone | 120 mg, 79% | N12C(CCCCC(N3CCC[C@@H]3C(OCCCCCCOC([C@H]2CCC1)=O)=O)=O)=O | C22H34N2O6
